US04988689
A mixture of 2.8 parts of 3,4-pyridinediamine, 10.7 parts of 1-[(4-fluorophenyl)methyl]-N-[1-(2-isothiocyanatoethyl)-3-pyrrolidinyl]-1H-benzimidazol-2-amine and 90 parts of tetrahydrofuran was stirred and refluxed for 7 hours. The precipitated product was filtered off while hot, washed with a small amount of tetrahydrofuran and dried, yielding 6.5 parts (51%) of N-(4-amino-3-pyridinyl)-N'-[2-[3-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-pyrrolidinyl]ethyl]thiourea; mp. 225° C. (compound 177).

reactant | 3,4-pyridinediamine | N1=CC(=C(C=C1)N)N | C5H7N3
reactant | 1-[(4-fluorophenyl)methyl]-N-[1-(2-isothiocyanatoethyl)-3-pyrrolidinyl]-1H-benzimidazol-2-amine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CN(CC2)CCN=C=S | C21H22FN5S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-(4-amino-3-pyridinyl)-N'-[2-[3-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-pyrrolidinyl]ethyl]thiourea | 51% | NC1=C(C=NC=C1)NC(=S)NCCN1CC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C26H29FN8S
